US04317834
5.05 g (0.0232 mol) of 3-phenoxy-4-fluoro-benzyl alcohol and 5.4 g (0.0232 mol) of 3,3-dimethyl-spiro(cyclopropane-1,1'-indene)-2-carboxylic acid chloride were dissolved in 100 ml of anhydrous toluene, and 2.5 g of pyridine, dissolved in 50 ml of toluene, were added dropwise at 20°-25° C., while stirring. The mixture was stirred at 25°-35° C. for a further 3 hours. The reaction mixture was poured into 150 ml of water, to which 5 ml of concentrated hydrochloric acid were added, and the organic phase was separated off and washed again with 100 ml of water. The toluene phase was then dried over sodium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 8.3 g (86.4% of theory) of 3,3-dimethylspiro-(cyclopropane-1,1'-indene)-2-carboxylic acid 3-phenoxy-4-fluoro-benzyl ester were obtained as a viscous oil. The structure was confirmed by the 1H-NMR spectrum.

reactant | 3-phenoxy-4-fluoro-benzyl alcohol | 0.0232 mol, 5.05 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1F | C13H11FO2
reactant | 3,3-dimethyl-spiro(cyclopropane-1,1'-indene)-2-carboxylic acid chloride | 0.0232 mol, 5.4 g | CC1(C(C12C=CC1=CC=CC=C21)C(=O)Cl)C | C14H13ClO
reactant | pyridine | 2.5 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 ml | O | H2O
product | 3,3-dimethylspiro-(cyclopropane-1,1'-indene)-2-carboxylic acid 3-phenoxy-4-fluoro-benzyl ester | 8.3 g, 86.4% | O(C1=CC=CC=C1)C=1C=C(COC(=O)C2C(C23C=CC2=CC=CC=C32)(C)C)C=CC1F | C27H23FO3
